US07511033B2
4-(3-Bromo-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
) The title compound was prepared from the above described {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (1.152 g, 2.30 mmol) and TFA (10 mL) according to general procedure I step 2. Obtained as a light yellow solid (0.730 g, 82%). MS (ISP) 383.0 [(M+H)+] and 385.0 [(M+2+H)+].

reactant | {2-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 2.30 mmol, 1.152 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)Br)=O)=O | C21H20BrF3N2O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(3-Bromo-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C(F)(F)F | C16H10BrF3N2O
